US07504401B2
Sodium hydroxide (0.154 g. 3.85 mmol) in 2 mL water was added to 3,5-dichloro-benzenethiol (0.328 g, 1.83 mmol) in 5 mL of ethanol. After 10 min stirring, 3-chloromethyl-pyridine hydrochloride (0.301 g, 1.83 mmol) in 2 mL water was added slowly. The resulting reaction mixture was stirred at room temperature overnight. Methylene chloride was added to the reaction mixture. The organic phase was washed with saturated aqueous sodium bicarbonate solution and brine. After removal of the solvent, the crude product was purified with flash chromatography to give 0.470 g (95% yield) of 3-(3,5-dichloro-phenylsulfanylmethyl)-pyridine. This compound was converted to N-[3-(1H-indol-4-yl)-5-(pyridin-3-ylmethylsulfanyl)-phenyl]-acetamide as described in Example 35. 1H NMR (400 MHz, CD3OD): δ 8.42 (s, 1H), 8.35 (d, J=4.7 Hz, 1H), 7.79 (d, J=7.8 Hz, 1H), 7.66 (s, 2H), 7.38-7.31 (m, 2H), 7.27-7.23 (m, 2H), 7.13 (t, J=7.7 Hz, 1H), 6.97 (d, J=7.2 Hz, 1H), 6.44 (d, J=3.1 Hz, 1H), 4.20 (s, 2H), 2.12 (s, 3H).

reactant | Sodium hydroxide | 3.85 mmol, 0.154 g | [OH-].[Na+]
reactant | 3,5-dichloro-benzenethiol | 1.83 mmol, 0.328 g | ClC=1C=C(C=C(C1)Cl)S | C6H4Cl2S
reactant | 3-chloromethyl-pyridine hydrochloride | 1.83 mmol, 0.301 g | Cl.ClCC=1C=NC=CC1
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | 2 mL | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
product | 3-(3,5-dichloro-phenylsulfanylmethyl)-pyridine | 0.470 g, 95% yield | ClC=1C=C(C=C(C1)Cl)SCC=1C=NC=CC1 | C12H9Cl2NS
